### PR TITLE
[Merged by Bors] - feat: introduce `SelfAdjointDecompose` class

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 1]
```diff
@@ -81,6 +81,24 @@ class StarOrderedRing (R : Type*) [NonUnitalSemiring R] [PartialOrder R] [StarRi
...
+`NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint` instance.
+However, it can also be satisfied by continuous linear functionals equipped
+with the intrinsic star operation.
+
+This type class can be used to guarantee `PositiveLinearMap` is a `StarHomClass`. -/
+class SelfAdjointDecompose (R : Type*) [AddGroup R] [Star R]
+    [PartialOrder R] where
+  /-- Every selfadjoint element is the difference of nonnegatives elements. -/
+  exists_nonneg_sub_nonnpos {a : R} (ha : IsSelfAdjoint a) :
+    ∃ (b c : R), 0 ≤ b ∧ 0 ≤ c ∧ a = b - c
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Star/Basic.lean:95]: Can you add the `TrivialStar` instance  to cover `Int` and `Rat`?

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 2]
```diff
@@ -81,6 +81,24 @@ class StarOrderedRing (R : Type*) [NonUnitalSemiring R] [PartialOrder R] [StarRi
...
+/-- A class to encode that selfadjoint elements may be expressed as the
+difference of nonnegative elements. This is satisfied by any type with a
+`NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint` instance.
+However, it can also be satisfied by continuous linear functionals equipped
+with the intrinsic star operation.
+
+This type class can be used to guarantee `PositiveLinearMap` is a `StarHomClass`. -/
+class SelfAdjointDecompose (R : Type*) [AddGroup R] [Star R]
+    [PartialOrder R] where
+  /-- Every selfadjoint element is the difference of nonnegatives elements. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Star/Basic.lean]:
```suggestion
  /-- Every self-adjoint element is the difference of nonnegatives elements. -/
```
or maybe not

File: Mathlib/Algebra/Order/Star/Basic.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Star/Basic.lean:95]: Perhaps silly, but I assume this would generalize to `AddMonoid` with
```suggestion
    ∃ (b c : R), 0 ≤ b ∧ c ≤ 0 ∧ a = b + c
```

Comment (themathqueen) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: I think the name `exists_nonneg_sub_nonnpos` would make more sense with Eric's suggestion (obviously changing the `_sub_` to `_add_`)

File: Mathlib/Algebra/Order/Star/Basic.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Algebra/Order/Star/Basic.lean]: or at least a space in between "self" and "adjoint"

File: Mathlib/Algebra/Order/Star/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: Oh I hadn't even spotted the name. This sounds like @j-loreaux tried both already, and just didn't quite finish cleaning up.

Comment (j-loreaux) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: Sorry, I'm not sure I follow. What instance do you want exactly?

Comment (j-loreaux) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: Yeah, I think this is silly. The whole purpose of this class is to deal with situations where we have things that are negative. And remember, nonnegative elements are somehow more preferable in the common use case for this class (`StarOrderedRing`s) because they are of the form `star x * x` (or rather sums of such), whereas the nonpositive ones are those that have the `-` in front.

As for the naming, this was just me being dumb. Will fix. (EDIT: done. I was *really* dumb because it was `nonnpos` before, not `nonpos` 😆)

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearMap.lean [hunk 3]
```diff
@@ -31,22 +31,16 @@ open scoped NNReal
...
+open scoped ComplexStarModule in
+instance {F E₁ E₂ : Type*} [AddCommGroup E₁] [PartialOrder E₁]
+    [StarAddMonoid E₁] [SelfAdjointDecompose E₁] [Module ℂ E₁] [StarModule ℂ E₁]
+    [NonUnitalRing E₂] [PartialOrder E₂] [StarRing E₂]
+    [StarOrderedRing E₂] [Module ℂ E₂] [StarModule ℂ E₂]
+    [FunLike F E₁ E₂] [OrderHomClass F E₁ E₂] [LinearMapClass F ℂ E₁ E₂] :
+    StarHomClass F E₁ E₂ where
+  map_star φ x := by
+    rw [← realPart_add_I_smul_imaginaryPart x]
+    simp [(ℜ x).2.map' φ , IsSelfAdjoint.star_eq, (ℑ x).2.map' φ]
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearMap.lean]: can you move this instance to an earlier file?

File: Mathlib/Algebra/Order/Star/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: Something like `[LinearOrderAddCommGroup R] [TrivialStar R] : SelfAdjointDecompose R`

Comment (themathqueen) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: So something like this?
```lean
instance {R : Type*} [AddGroup R] [Lattice R] [AddLeftMono R] [Star R] :
    SelfAdjointDecompose R where
  exists_nonneg_sub_nonneg {a} _ := ⟨a⁺, a⁻, posPart_nonneg a, negPart_nonneg a, by simp⟩
```
Don't think the trivial star is necessary if it's a linear order?

Comment (eric-wieser) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: Thanks, that's what I was thinking of.

Comment (eric-wieser) [reply Mathlib/Algebra/Order/Star/Basic.lean:95]: I think you can probably directly use `posPart` and `negPart` to simplify that.

File: Mathlib/LinearAlgebra/Complex/Module.lean [hunk 4]
```diff
@@ -609,4 +623,15 @@ lemma mem_unitary_iff_isStarNormal_and_realPart_sq_add_imaginaryPart_sq_eq_one [
...
   · simp [← hx.star_comm_self.eq, star_mul_self_eq_realPart_sq_add_imaginaryPart_sq, ← sq, h]
 
+instance {F E A : Type*} [AddCommGroup E] [PartialOrder E]
+    [StarAddMonoid E] [SelfAdjointDecompose E] [Module ℂ E] [StarModule ℂ E]
+    [NonUnitalRing A] [PartialOrder A] [StarRing A]
+    [StarOrderedRing A] [Module ℂ A] [StarModule ℂ A]
+    [FunLike F E A] [OrderHomClass F E A] [LinearMapClass F ℂ E A] :
+    StarHomClass F E A where
+  map_star φ x := by
+    have : AddMonoidHomClass F E A := inferInstance
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Complex/Module.lean]:
```suggestion
```

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 5]
```diff
@@ -81,6 +81,24 @@ class StarOrderedRing (R : Type*) [NonUnitalSemiring R] [PartialOrder R] [StarRi
   le_iff :
     ∀ x y : R, x ≤ y ↔ ∃ p, p ∈ AddSubmonoid.closure (Set.range fun s => star s * s) ∧ y = x + p
 
+/-- A class to encode that selfadjoint elements may be expressed as the
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean]:
```suggestion
/-- A class to encode that self-adjoint elements may be expressed as the
```

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 6]
```diff
@@ -81,6 +81,24 @@ class StarOrderedRing (R : Type*) [NonUnitalSemiring R] [PartialOrder R] [StarRi
...
+difference of nonnegative elements. This is satisfied by any type with a
+`NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint` instance.
+However, it can also be satisfied by continuous linear functionals equipped
+with the intrinsic star operation.
+
+This type class can be used to guarantee `PositiveLinearMap` is a `StarHomClass`. -/
+class SelfAdjointDecompose (R : Type*) [AddGroup R] [Star R]
+    [PartialOrder R] where
+  /-- Every self-adjoint element is the difference of nonnegatives elements. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean]:
```suggestion
  /-- Every self-adjoint element is the difference of nonnegative elements. -/
```

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 7]
```diff
@@ -436,6 +454,20 @@ instance (priority := 100) StarRingEquivClass.instOrderIsoClass [EquivLike F R S
     rw [← f_inv_f x, ← f_inv_f y]
     exact NonUnitalStarRingHom.map_le_map_of_map_star f_inv h
 
+
+@[aesop safe apply (rule_sets := [CStarAlgebra])]
+lemma IsSelfAdjoint.map' {F E R : Type*} [AddCommGroup E] [PartialOrder E] [StarAddMonoid E]
+    [NonUnitalRing R] [PartialOrder R] [StarRing R] [StarOrderedRing R]
+    [SelfAdjointDecompose E] [FunLike F E R] [OrderHomClass F E R] [AddMonoidHomClass F E R]
+    (f : F) {a : E} (ha : IsSelfAdjoint a) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean]: Doesn't matter much since we'll be utilizing dot notation, but should `f` come after `ha`?
```suggestion
    {a : E} (ha : IsSelfAdjoint a) (f : F) :
```

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 8]
```diff
@@ -436,6 +454,20 @@ instance (priority := 100) StarRingEquivClass.instOrderIsoClass [EquivLike F R S
     rw [← f_inv_f x, ← f_inv_f y]
     exact NonUnitalStarRingHom.map_le_map_of_map_star f_inv h
 
+
+@[aesop safe apply (rule_sets := [CStarAlgebra])]
+lemma IsSelfAdjoint.map' {F E R : Type*} [AddCommGroup E] [PartialOrder E] [StarAddMonoid E]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean:463]: Maybe add a docstring here to tell the user what the difference between this and `.map` is?

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 9]
```diff
@@ -81,6 +81,24 @@ class StarOrderedRing (R : Type*) [NonUnitalSemiring R] [PartialOrder R] [StarRi
   le_iff :
     ∀ x y : R, x ≤ y ↔ ∃ p, p ∈ AddSubmonoid.closure (Set.range fun s => star s * s) ∧ y = x + p
 
+/-- A class to encode that selfadjoint elements may be expressed as the
+difference of nonnegative elements. This is satisfied by any type with a
+`NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint` instance.
+However, it can also be satisfied by continuous linear functionals equipped
+with the intrinsic star operation.
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean:88]: Are you able to add the instance for this now?

Comment (j-loreaux) [reply Mathlib/Algebra/Order/Star/Basic.lean:88]: No, that's a bit of work. It's Jordan decomposition of functionals.

File: Mathlib/Algebra/Order/Star/Basic.lean [hunk 10]
```diff
@@ -436,6 +454,25 @@ instance (priority := 100) StarRingEquivClass.instOrderIsoClass [EquivLike F R S
     rw [← f_inv_f x, ← f_inv_f y]
     exact NonUnitalStarRingHom.map_le_map_of_map_star f_inv h
 
+
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Star/Basic.lean]:
```suggestion
```

**Review by themathqueen — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by Garmelon** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/7dafb351360443e7db2a0b0b28e56d5c9c10d82e?reference=66bc400534f0521ad265355689b6acfc7e29b813) for 7dafb351360443e7db2a0b0b28e56d5c9c10d82e against 66bc400534f0521ad265355689b6acfc7e29b813 are in. There are significant results. @Garmelon

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Runner for run main has different system configurations between commits.

- 🟥 `build//instructions`: **+267.1G** (**+0.17%**)

**Medium changes (1✅, 5🟥)**

- 🟥 `build/module/Mathlib.Analysis.CStarAlgebra.CompletelyPositiveMap//instructions`: **+2.2G** (**+11.18%**)
- 🟥 `build/module/Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Basic//instructions`: **+6.4G** (**+8.10%**)
- 🟥 `build/module/Mathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow.RingInverseOrder//instructions`: **+3.5G** (**+5.51%**)
- ✅ `build/profile/initialization//wall-clock`: **-11s** (**-4.31%**)
- 🟥 `build/profile/tacticAnalysis//wall-clock`: **+40s** (**+7.40%**)
- 🟥 `open-mathlib//wall-clock`: **+1s** (**+25.54%**)

**Small changes (1✅, 9🟥)**

- 🟥 `build//wall-clock`: **+8s** (**+1.62%**)
- 🟥 `build/module/Mathlib.Algebra.Order.Star.Basic//instructions`: **+2.3G** (**+9.02%**)
- 🟥 `build/module/Mathlib.Analysis.CStarAlgebra.Hom//instructions`: **+494.0M** (**+3.43%**)
- ✅ `build/module/Mathlib.Analysis.CStarAlgebra.PositiveLinearMap//instructions`: **-5.3G** (**-24.54%**) (reduced significance based on *//lines)
- 🟥 `build/module/Mathlib.LinearAlgebra.Complex.Module//instructions`: **+3.1G** (**+7.02%**) (reduced significance based on *//lines)
- 🟥 `build/profile/interpretation//wall-clock`: **+6m 23s** (**+4.12%**)
- 🟥 `build/profile/linting//wall-clock`: **+9s** (**+3.28%**)
- 🟥 `build/profile/overlappingInstancesLinter//wall-clock`: **+14s** (**+5.79%**)
- 🟥 `build/profile/parsing//wall-clock`: **+4s** (**+2.84%**)
- 🟥 `build/profile/type checking//wall-clock`: **+1m 2s** (**+3.58%**)
